US07576099B2
2-Chloro-5-fluoro-4-(3,3-dimethylbut-1-ynyl)benzoic acid
Methyl 2-chloro-5-fluoro-4-(3,3-dimethylbut-1-ynyl)benzoate (6.1 g, 22 mmol) was dissolved in MeOH (30 mL), sodium hydroxide (1.3 g, 33 mmol) (in 20 mL, water) was added and stirred at 60° C. overnight. Solvent was removed, residue was dissolved in water, neutralized by HCl till pH <2, extracted by EtOAc, washed by water, brine and dried over Na2SO4. Product was obtained as a beige solid (3.1 g, 52%).

reactant | Methyl 2-chloro-5-fluoro-4-(3,3-dimethylbut-1-ynyl)benzoate | 22 mmol, 6.1 g | ClC1=C(C(=O)OC)C=C(C(=C1)C#CC(C)(C)C)F | C14H14ClFO2
reactant | sodium hydroxide | 33 mmol, 20 mL, 1.3 g | [OH-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
product | 2-Chloro-5-fluoro-4-(3,3-dimethylbut-1-ynyl)benzoic acid | 3.1 g, 52% | ClC1=C(C(=O)O)C=C(C(=C1)C#CC(C)(C)C)F | C13H12ClFO2
